Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I just need to get back on Lexapro."
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Mr. ___ is a ___ student on an 
accelerated med school track, with history of depression, who 
was brought in by ___ police after being sectioned at the ___ 
___ due to making suicidal statements and text 
messages to others on campus.
. 
When questioned about what happened that led to him being 
sectioned at the ___, patient reports that in a 
moment of intense anger and depression, he told his friends that 
he "felt like not existing and not living anymore." These 
friends were concerned and called the ___ counseling center, who 
came to his dorm and brought him to the counseling center and 
then to the ED. Patient reports that he impulsively made these 
statements in a moment of desperation, and that by no means did 
he want to harm himself.
. 
He does report that he has had a "general well-being decline" 
over the last semester, but that this "decline" peaked in the 
last week, which he attributes largely to not taking his 
Lexapro. He states he hasn't taken Lexapro for the last 7 days, 
and prior to this had been spacing out his doses to make his 
prescription last longer. He reports that he did not get it 
refilled because
he was preoccupied with finals and didn't want to go home to 
___, which is where his psychiatrist is and where he gets 
his medications filled. He feels that if he could get back on 
Lexapro that his symptoms would improve. When questioned about 
his "general well-being decline," the patient does report a 
number of depressive symptoms such as difficulty in getting out 
of bed, going to class, and keeping up his concentration level. 
But he also reports episodes of staying up all night, having a 
lot of energy, but "unproductive energy," and very intense and 
angry mood which has led him to "send angry text messages." He
reports frequently being told he is "on edge." Patient also 
endorses a lack of a support system in college and not feeling 
close with any of his friends. He also discusses a number of 
stressors related to school. He is in the accelerated BA/MD 
program, and has been difficulty maintaining GPA requirements. 
He has minimal break time and is supposed to be taking the MCAT 
this ___. He often wonders if he really wants to stay in the 
program, and endorses being under a huge amount of stress most 
of the time.
. 
In regards to his past psychiatric history, patient states that 
he about a year ago he experienced a severe depression and 
started on Wellbutrin, which was later switched to Lexapro 10 mg 
in ___. His depression was so severe that he had to 
take the semester off of school and started seeing a 
psychiatrist
at home (Dr. ___. 
. 
PSYCHIATRIC ROS:
Depression - as per HPI
Mania - as per HPI
Psychosis - has been feeling very paranoid about others
threatening him or meaning harm towards him. No AVH. 
Anxiety - denies panic attacks, flashbacks, or agoraphobia.
 
MEDICAL ROS: All negative on a 10-point ROS including no fever, 
HA, eye pain, hearing deficit, chest pain, difficulty breathing, 
abdominal pain, constipation, diarrhea, musculoskeletal pain
. 
Per collateral obtained by Dr. ___ dated ___ 
from Dr. ___: Per record review, he initially presented 
to ___ in ___ with pretty severe anxiety and took the 
semester off. Got care with an outside psychiatrist (in his home 
town) and was started on an SSRI (chart says Lexapro). He 
returned to ___ in ___ but hasn't really been to Counseling 
office. In ___, ___ Police contacted Counseling because 
patient had been doing online harassment or stalking of another 
female student. For last 48 hours, phones have been ringing off 
the hook about him. Peers, family members, advisors, have been 
worried about his behavior: he has been making comments about 
suicidality, his imminent death, feeling odd. Triage clinician 
got him on the phone yesterday. He told the triage clinician 
that he had been running out of his medication and had been 
stretching it out in order to make it last. "can't function 
right" "not feeling quite right" "not sleeping well" "feeling 
sleep deprived" "feeling dizzy" "not sitting upright during 
finals and was dizzy" "tired and slurring his speech" 
. 
Numerous other texts related to death, dying, and self-injury. 
Today he was brought in came to ___ at the scheduled time. 
However, more happened today as well. Knocked on doors in his 
dorm, saying he is suicidal. ___ police called to the dorm 
because of that. 
. 
Office visit today: patient was very agitated and upset, 
generally overwhelmed about academic pressure and rejected by 
women, feeling worthless. Feels isolated at ___. He denied 
walking through dorm, knocking on doors and saying he was 
suicidal. He acknowledged sending the texts but denied active 
suicidality.
He is in a ___ year BA/MD program. One of the notes mentions that 
he may be dropped from that program (doesn't know if it's for 
conduct or GPA). 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Diagnoses: Depression, BPAD 
Hospitalizations: Denies
Current treaters and treatment: Dr. ___, no therapist
Medication and ECT trials: Wellbutrin, most recently Lexapro
Self-injury/Suicide attempts: Denies
Harm to others: Denies
Access to weapons: Denies

PAST MEDICAL HISTORY:
Denies

 
Social History:
___
Family History:
- Diagnoses: maternal grandmother with severe bipolar. Brother 
with ADHD 
- ___: none
- Addictions: none 
 
Physical Exam:
Physical Examination:
VS:  BP: 142/90  HR: 81  temp: 97.7 resp: 16 O2 sat: 98

General-appears older than reported age, well developed, well
nourished, bearded, long hair in pony tail, glasses, adequate
grooming/hygiene
Skin-no lesions appreciated, intact
HEENT-oropharynx without erythema/exudate, MMM
Lungs-CTAB, no rales/rhonchi/wheezes
CV-normal rate, regular rhythm, normal S1, S2, no r/m/g
Abdomen: BSx4, soft, nd, nttp
Extremities-no BLE edema, radial pulses 2+ b/l
Neuro-
CN: 
      pupils symmetry and responsiveness to light and
accommodation: pupils symmetric and responsive to light and
accommodation
     visual fields: full
     EOM: intact
     facial sensation to light touch in all 3 divisions: intact
     facial symmetry on eye closure and smile: intact and no
asymmetry
     hearing bilaterally to rubbing fingers: intact
     phonation: normal
     head turning and shoulder shrug: normal bilaterally
     tongue: midline, no atrophy

Motor:
___ strength in b/l shoulder abd, elbow ext/flex, hip flex, knee
ext/flex, ADF/APF
  
*Deep tendon Reflexes:
___ b/l triceps, biceps, brachioradialis, patellae and ankle
jerk, negative Babinski b/l

Sensation: intact to light touch
Coordination:
     Finger-nose-finger without dysmetria
Gait/Romberg: normal/negative

Neuropsychiatric Examination:
  *Appearance: appears older than reported age, well developed,
well nourished, bearded, long hair in pony tail, glasses,
adequate grooming/hygiene
  Behavior: cooperative, pleasant, well related
  *Mood and Affect: 'better'/somewhat congruent, somewhat
restricted but not dysphoric
  *Thought process: linear, coherent, no LOA appreciated
  *Thought Content: denied current SI but endorsed prior passive
SI without intent/plan, denied HI, AVH, paranoid/delusional
content
  *Judgment and Insight: poor to fair/poor to fair
  Cognition:
    *Attention, *orientation, and executive function:
attentive/oriented to conversation
    *Memory: Reg ___ and Recall ___ at 5 min
    *Fund of knowledge: ___ recent US presidents
    Calculations: 2.25=9q
    Abstraction: train/bicycle=vehicles, spilled milk='no point
in dwelling on something you cannot change'
    *Speech: normal tone, rate, volume, prosody
    *Language: fluent, normal comprehension

Discharge Examination: 
98.3 128/85 89 16 98%
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: "good." 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented 
C: awake, alert and oriented x3 
I/J: improved/improved 

 
Pertinent Results:
___ 06:40PM BLOOD WBC-8.7 RBC-5.41 Hgb-15.5 Hct-45.8 MCV-85 
MCH-28.7 MCHC-33.8 RDW-12.6 RDWSD-38.8 Plt ___
___ 06:40PM BLOOD Neuts-64.1 ___ Monos-8.4 Eos-1.6 
Baso-0.5 Im ___ AbsNeut-5.55 AbsLymp-2.16 AbsMono-0.73 
AbsEos-0.14 AbsBaso-0.04
___ 06:40PM BLOOD Plt ___
___ 06:40PM BLOOD Glucose-72 UreaN-23* Creat-1.2 Na-141 
K-4.1 Cl-103 HCO3-26 AnGap-16
___ 03:37AM BLOOD %HbA1c-4.8 eAG-91
___ 03:37AM BLOOD Triglyc-81 HDL-34 CHOL/HD-4.0 LDLcalc-85
___ 06:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
Assessment: This is a ___ year old single man, currently ___ 
at ___ enrolled in a ___ year BA/MD BU student with 
history of mood disorder, no prior psychiatric hospitalizations 
or suicide attempts, recent use of Adderall ___ mg per day), 
who presents to ___ via ___ Police on a ___ due to concerns for numerous suicidal statements made via 
texts to friends and classmates. 
. 
Interview on initial examination notable for recent worsening of
depressed mood, hopelessness, anhedonia, decreased 
energy/motivation, difficulty c concentration and passive SI in 
the context of finals and of running out/spreading out home 
Escitalopram. Interview also notable for periods of extreme 
irritability leading to interpersonal conflict lasting minutes 
at time since ___. Additionally, patient's self report 
notable for decreased sleep only in the context of Adderall use 
to study for finals as well as increased irritability recently 
in the context of running out of Escitalopram while taking 
Adderall. MSE notable for somewhat restricted but not dysphoric 
affect and otherwise linear thought process without evident 
internal preoccupation. Cognitive exam unremarkable. Labs 
notable for UDS +amphetamines. Collateral notable for safety 
concerns from multiple sources (friends, family, advisors) given 
communications regarding suicidal ideation made by the patient. 
Family history notable for bipolar spectrum illness in maternal 
grandmother.
. 
Diagnostically, etiology of presentation is unclear, 
particularly his young age. Further history obtained from his 
mother during this hospitalization revealed a normal development 
with abrupt change in mood and behavior in ___ following the 
breakup with his girlfriend-- since then, mother has reported 
increased impulsivity and aggression with Mr. ___ getting 
into a physical fight with his brother. ___ from the 
school is concerning for impulsive and aggressive behaviors as 
well, with patient admitting he threatened to sexually assault 
his ex-girlfriend "to get her attention," resulting in a 
harassment protection order against him. School also reported 
patient has been knocking on people's doors, threatening suicide 
for unclear reasons. Differential diagnosis includes underlying 
bipolar spectrum illness vs. substance induced mood disorder vs. 
mood disorder secondary to underlying medical condition. In 
addition, I cannot rule out underlying primary psychotic 
disorder at this time. Of note, given the collateral from his 
mother, I do not believe the patient's presentation is explained 
by underlying personality disorder. 

#. Legal/Safety: Patient was admitted to ___ on ___ ___, upon admission, he signed a CV that was accepted. Patient 
was in good behavioral control throughout his admission, 
maintaining his safety on 15 minute checks and he did not 
require physical or chemical restraints.
. 
#. Unspecified mood disorder: as noted above.
- Of note, patient did not meet criteria for hypomania/mania, 
but given his irritability on antidepressants, recent 
impulsivity and agitation, I am concerned of underlying bipolar 
disorder as noted above. 
- Patient was compliant in attending groups, meeting with his 
treatment team, and participated appropriately in his care. 
- Lexapro was held during this admission due to concerns of 
activating side effects with ?underlying bipolar spectrum 
illness. 
- After discussion of the risks and benefits, we initiated 
Lamictal 25 mg po qd, which he tolerated well without complaints 
of side effects. 
- In addition, after discussion of the risks and benefits, we 
initiated Latuda, which was titrated to 40 mg po qd; he 
tolerated this well without complaints of side effects aside 
from some mild sedation 
- For sleep, patient was started on Vistaril 50 mg po q6h prn 
anxiety/insomnia but did not require doses. 
- Of note, Mr. ___ consistently denied suicidal ideation or 
thoughts of self harm during this hospitalization. With the 
patient's permission, we had a family meeting with his mother, 
who is also a ___ and flew here from ___. She 
understood our concerns for serious mental illness and stated 
the family preferred to have him at home for increased supports, 
where he would follow up with his outpatient psychiatrist. 
Patient was in agreement with this plan and Mr. ___ was 
discharged with her with plan to return home and not to return 
to school. 

#. Stimulant use: as noted above 
- Patient received extensive counseling on the risks of ongoing 
substance use, including stimulant use and patient understood 
the risks on his psychiatric health should he resume using 
stimulants.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 10 mg PO DAILY 

 
Discharge Medications:
1.  LamoTRIgine 25 mg PO DINNER 
RX *lamotrigine [Lamictal] 25 mg 1 tablet(s) by mouth daily Disp 
#*15 Tablet Refills:*0 
2.  lurasidone 40 mg oral DINNER 
RX *lurasidone [Latuda] 40 mg 1 tablet(s) by mouth daily Disp 
#*15 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified psychotic disorder 
Stimulant use disorder

 
Discharge Condition:
98.3  128/85   89   16   98%
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'good.' 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented 
C: awake, alert and oriented x3 
I/J: improved/improved 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___